US09422240B2
Instead of ethyl cis-2-phenylcyclopropanecarboxylate, 3-phenyl-cyclopentanecarboxylic acid methyl ester (1.76 g) was used and treated by the same technique as in Reference Example 23-1(2) to give (3-phenylcyclopentyl)methanol as a colorless oil (1.31 g).

reactant | ethyl cis-2-phenylcyclopropanecarboxylate | C1(=CC=CC=C1)[C@@H]1[C@@H](C1)C(=O)OCC | C12H14O2
reactant | 3-phenyl-cyclopentanecarboxylic acid methyl ester | 1.76 g | COC(=O)C1CC(CC1)C1=CC=CC=C1 | C13H16O2
product | (3-phenylcyclopentyl)methanol | 1.31 g | C1(=CC=CC=C1)C1CC(CC1)CO | C12H16O
